### PR TITLE
[Merged by Bors] - chore(Data/Multiset/Basic): move the `sub`, `union`, `inter` sections lower

### PR DESCRIPTION
**Pull request by YaelDillies**
* Move the sections about `sub`, `union` and `inter` under the sections about `count` and `filter`
* `Multiset.countP_sub` now has a different argument order to match `List.countP_diff`
* Golf `List.count_sub`
* Name the instances and declare them using `where` notation
* Define `Multiset.card` using `Quotient.lift`, not `Quotient.liftOn`

---

- [x] depends on: #20045 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by b-mehta** [comment]
Can you please add to the PR description a more accurate summary of what's changing in this PR, rather than "other cleanups"? It looks to me like you are

- changing docs
- moving lemmas around which don't involve `sub`
- changing proofs
- changing the simp-set
- changing the implicitness of lemmas

**Comment by Timeroot** [comment]
Sorry about that, fat finger.

File: Mathlib/Data/Multiset/Basic.lean [hunk 1]
```diff
@@ -2316,6 +1998,297 @@ theorem filter_eq' (s : Multiset α) (b : α) : s.filter (· = b) = replicate (c
...
+lemma sub_cons (a : α) (s t : Multiset α) : s - a ::ₘ t = s.erase a - t :=
+  Quotient.inductionOn₂ s t fun _l₁ _l₂ => congr_arg _ <| diff_cons _ _ _
+
+protected lemma zero_sub (t : Multiset α) : 0 - t = 0 :=
+  Multiset.induction_on t rfl fun a s ih => by simp [ih]
+
+@[simp]
+lemma countP_sub {s t : Multiset α} :
+    t ≤ s → ∀ (p : α → Prop) [DecidablePred p], countP p (s - t) = countP p s - countP p t :=
+  Quotient.inductionOn₂ s t fun _l₁ _l₂ hl _ _ ↦ List.countP_diff hl _
```
Comment (Vierkantor) [inline Mathlib/Data/Multiset/Basic.lean:2046]: Some more to add to the PR description: `countP_sub` now has a different argument order. (Presumably to match `List.countP_diff`?)

File: Mathlib/Data/Multiset/Basic.lean [hunk 2]
```diff
@@ -2316,6 +1998,297 @@ theorem filter_eq' (s : Multiset α) (b : α) : s.filter (· = b) = replicate (c
...
+
+@[simp]
+lemma count_sub (a : α) (s t : Multiset α) : count a (s - t) = count a s - count a t :=
+  Quotient.inductionOn₂ s t <| by simp [List.count_diff]
```
Comment (Vierkantor) [inline Mathlib/Data/Multiset/Basic.lean:2050]: This is indeed a nice change!

File: Mathlib/Data/Multiset/Basic.lean [hunk 3]
```diff
@@ -2316,6 +1998,297 @@ theorem filter_eq' (s : Multiset α) (b : α) : s.filter (· = b) = replicate (c
...
+    by_cases m : a ∈ s
+    · rw [(by rw [filter_cons_of_neg _ h] : filter p (erase s a) = filter p (a ::ₘ erase s a)),
+        cons_erase m]
+    · rw [erase_of_not_mem m]
+
+@[simp]
+lemma sub_filter_eq_filter_not (p) [DecidablePred p] (s : Multiset α) :
+    s - s.filter p = s.filter fun a ↦ ¬ p a := by
+  rw [← filter_add_not p s]
+  ext a; by_cases h : p a <;> simp [h]
```
Comment (Vierkantor) [inline Mathlib/Data/Multiset/Basic.lean:2093]: If this proof is already multiline, might as well go all the way. (Also: why is this extra `rw` needed?)
```suggestion
  rw [← filter_add_not p s]
  ext a
  by_cases h : p a <;> simp [h]
```

**Review by Vierkantor — COMMENTED** [review]
Happy new year! :) Please don't forget this comment:

> Can you please add to the PR description a more accurate summary of what's changing in this PR, rather than "other cleanups"?

In addition I have a few minor remarks, but LGTM overall.

File: Mathlib/Data/Multiset/Basic.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/Multiset/Basic.lean:2093]: Not sure why that `rw` ended up here. I've removed it (and the proof is now back to one line)

**Comment by YaelDillies** [comment]
Sorry, I had forgotten. Done now!

**Comment by Vierkantor** [comment]
Thanks! Let's wait for the build to succeed, then it looks good for borsifying.

bors d+
